US07094801B2
Ex-61A: 2-(5-Formyl-2,4-dimethoxy-phenyl)-indole-1-carboxylic acid tert-butyl ester (Ex-36A, 2.0 g, 5.2 mmol) was dissolved in 100 ml of THF, and Bu4NF (6.86 g, 26 mmol) was added. The reaction mixture was stirred at room temperature overnight. No reaction occured at this condition. Then, Bu4NF (6.86 g, 26 mmol) was added to the mixture, and the mixture was stirred at reflux for 4 days. The reaction was about 50% completion (HPLC). The reaction mixture was poured into CH2Cl2, and washed with water and brine. The organic phase was dried over MgSO4, and concentrated. The residue was purified by column chromatography (EtOAc: Hex, 2:1) to give 0.45 g (30%) of 5-(1H-indol-2-yl)-2,4-dimethoxy-benzaldehyde. 1H-NMR (CDCl3) δ 10.37 (s, 1H), 9.25 (br, 1H), 8.28 (s, 1H), 7.63 (d, J=8 Hz, 1H), 7.39 (d, J=8 Hz, 1H), 7.08–7.20 (m, 2H), 6.92 (d, J=2 Hz, 1H), 6.56 (s, 1H) 4.11 (s, 3H), 4.00 (s, 3H). HMRS (EI) calcd. for C17H15NO3: 281.1052; found: 281.1049.

reactant | 2-(5-Formyl-2,4-dimethoxy-phenyl)-indole-1-carboxylic acid tert-butyl ester | 5.2 mmol, 2.0 g | C(C)(C)(C)OC(=O)N1C(=CC2=CC=CC=C12)C1=C(C=C(C(=C1)C=O)OC)OC | C22H23NO5
reactant | Bu4NF | 26 mmol, 6.86 g | [N+](CCCC)(CCCC)(CCCC)CCCC.[F-]
reactant | Bu4NF | 26 mmol, 6.86 g | [N+](CCCC)(CCCC)(CCCC)CCCC.[F-]
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 5-(1H-indol-2-yl)-2,4-dimethoxy-benzaldehyde | 0.45 g, 30% | N1C(=CC2=CC=CC=C12)C=1C(=CC(=C(C=O)C1)OC)OC | C17H15NO3
